US04503063
2-(2,4-Dichlorophenyl)-1-(N-methylcarbamoyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol
1-Carbamoyl-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (1.0 g) was dissolved in dry tetrahydrofuran (20 ml) and the reaction mixture was cooled to 0°-5° C. Sodium hydride (0.15 g, as a 50% dispersion in oil) was then added, the mixture stirred for 10 minutes and methyl iodide (0.45 g) added. Further quantities of methyl iodide (90 mg) and sodium hydride (375 mg, as a 50% dispersion in oil) were added. After stirring for a few minutes, yet further quantities of methyl iodide (90 mg) and sodium hydride (375 mg, as a 50% dispersion in oil) were added. The mixture was then quenched in water and extracted with ethyl acetate (3×50 ml). The combined organic extracts were dried (MgSO4) and evaporated to give the crude product as a gum. A solution of this gum in methylene chloride (20 ml) was chromatographed on a silica gel column (10 g), eluting with methylene chloride (100 ml), then with methylene chloride containing 2% isopropanol and 0.2% NH4OH (300 ml), and finally with methylene chloride containing 5% isopropanol and 0.5% NH4OH (500 ml). Appropriate fractions were collected to yield the title compound, which was recrystallized from cyclohexane (yield 41 mg, m.p. 151°-154° C.).

reactant | 1-Carbamoyl-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 1.0 g | C(N)(=O)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C12H12Cl2N4O2
reactant | Sodium hydride | [H-].[Na+]
reactant | methyl iodide | 0.45 g | CI | CH3I
reactant | methyl iodide | 90 mg | CI | CH3I
reactant | methyl iodide | 90 mg | CI | CH3I
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(2,4-Dichlorophenyl)-1-(N-methylcarbamoyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CC(NC)=O)(CN1N=CN=C1)O | C13H14Cl2N4O2
